US07317033B2
a) N-(2-Amino-3-carboxyphenyl)-N′-(4-methyl-3-thienyl)thiourea
is obtained analogously to the procedure described in example 25 a) from 3-carboxy-1,2-diaminobenzene and 4-methyl-3-thienyl isothiocyanate in anhydrous THF, followed by medium-pressure chromatography on silica gel using a mixture of 12 parts of methylene chloride and 1 part of methanol. Amorphous product.

reactant | 3-carboxy-1,2-diaminobenzene | C(=O)(O)C=1C(=C(C=CC1)N)N | C7H8N2O2
reactant | 4-methyl-3-thienyl isothiocyanate | CC=1C(=CSC1)N=C=S | C6H5NS2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | methanol | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | N-(2-Amino-3-carboxyphenyl)-N′-(4-methyl-3-thienyl)thiourea | NC1=C(C=CC=C1C(=O)O)NC(=S)NC1=CSC=C1C | C13H13N3O2S2
